US04298726
10 grams of 3,4-di-O-acetyl-L-rhamnal is dissolved in 100 milliliters of methanol, and the pH is adjusted to 8 to 9 by the dropwise addition of a freshly prepared solution of sodium methoxide in methanol. The flask is sealed and allowed to stand at 0°-5° C. overnight after which time deacetylation is complete. The solution is neutralized by the careful dropwise addition of glacial acetic acid, and then the solvent is removed under reduced pressure. The resulting clear syrup is co-evaporated several times with toluene to remove any excess acetic acid, and the syrup crystallizes during these evaporations to give L-rhamnal. The yield of this compound is 6 grams.

reactant | 3,4-di-O-acetyl-L-rhamnal | 10 grams | C[C@H]1[C@@H]([C@H](C=CO1)OC(=O)C)OC(=O)C | C10H14O5
reactant | sodium methoxide | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 100 milliliters | CO | CH4O
product | L-rhamnal | C[C@H]1[C@@H]([C@H](C=CO1)O)O | C6H10O3
